US08378118B2
Step-II: Preparation of (4-Methoxy-indan-5-yl)-pyrrolidin-1-yl-methanone
To a clear solution of 4-Methoxy-indan-5-carboxylic acid (12.0 gm, 0.0625 mole) in Tetrahydrofuran (60 ml), Carbonyl-diimidazole (13.24 gm, 0.0812 mole) was added at 25-28° C. The reaction mixture was heated to 65-70° C. and stirred for 2 hours to the reaction mixture, a solution of Pyrrolidine (5.74 ml, 0.0687 mole) in Tetrahydrofuran (20 ml) was added at 10-15° C. The reaction mixture was poured into water (200 ml) and extracted with Ethylacetate (2×100 ml). The organic layer was dried over Sodium sulphate, distilled under vacuum and purified by column chromatography using Ethyl acetate:Hexane (20:80) as mobile phase. The fractions were distilled under vacuum to give 6.0 gm of desired product as a viscous oil.

reactant | 4-Methoxy-indan-5-carboxylic acid | 0.0625 mole, 12.0 gm | COC1=C2CCCC2=CC=C1C(=O)O | C11H12O3
reactant | Carbonyl-diimidazole | 0.0812 mole, 13.24 gm | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Pyrrolidine | 0.0687 mole, 5.74 ml | N1CCCC1 | C4H9N
reactant | water | 200 ml | O | H2O
solvent | Tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4-Methoxy-indan-5-yl)-pyrrolidin-1-yl-methanone | 6.0 gm, Yield: 39.2% | COC1=C2CCCC2=CC=C1C(=O)N1CCCC1 | C15H19NO2
